US05763458
5',6'-Dichloro-2',3'-ethylenedioxyacetophenone (8.5 g, 0.0344 miol) was added in portions to 34.5 mL of stirring fuming nitric acid at a rate such that the temperature of the reaction mixture remained below 10° C. The mixture was stirred for an additional 10 minutes at 5 C. and then poured onto 250 g of crushed ice giving yellow precipitate. The precipitate was isolated by filtration and washed with water. Drying gave 5',6'-dichloro-2',3'-ethylenedioxy-4'-nitroacetophenone (8.9 g, 0.0341 mol), m.p. 181°-182° C.

reactant | 5',6'-Dichloro-2',3'-ethylenedioxyacetophenone | 8.5 g | ClC=1C=C2C(=C(C1Cl)C(C)=O)OCCO2 | C10H8Cl2O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 5',6'-dichloro-2',3'-ethylenedioxy-4'-nitroacetophenone | 0.0341 mol, 8.9 g | ClC=1C(=C2C(=C(C1Cl)C(C)=O)OCCO2)[N+](=O)[O-] | C10H7Cl2NO5
